US04241079
Step C--3-Iminophenylmethyl-4-(3-carbomethoxy-S-methylisothioureido)benzophenone
To a solution of 3-iminophenylmethyl-4-(3-carbomethoxythioureido)benzophenone (1.1 g.; 0.0026 mole) in dimethylformamide (10.0 ml.) is added water (3.0 ml.). Additional dimethylformamide (25.0 ml.) is added to dissolve some precipitate and then sodium hydroxide (50% aqueous; 0.21 g.; 0.0026 mole) is added. The resulting solution is stirred at room temperature for 11/2 hours and then methyl iodide (0.38 g.; 0.0026 mole) is added. The solution is stirred for one hour at room temperature and then poured into water (250 ml.). The precipitate is collected by filtration and dried to afford 0.95 g. of 3-iminophenylmethyl-4-(3-carbomethoxy-S-methylisothioureido)benzophenone, m.p. 140°-142° C. (dec.).

reactant | 3-iminophenylmethyl-4-(3-carbomethoxythioureido)benzophenone | 0.0026 mole, 1.1 g | N=C1C(C(C(=O)C2=CC=CC=C2)=CC=C1NC(=S)NC(=O)OC)CC1=CC=CC=C1 | C23H21N3O3S
reactant | sodium hydroxide | 0.0026 mole, 0.21 g | [OH-].[Na+]
reactant | methyl iodide | 0.0026 mole, 0.38 g | CI | CH3I
reactant | 3-iminophenylmethyl-4-(3-carbomethoxy-S-methylisothioureido)benzophenone | N=C1C(C(C(=O)C2=CC=CC=C2)=CC=C1NC(SC)=NC(=O)OC)CC1=CC=CC=C1 | C24H23N3O3S
solvent | dimethylformamide | 10.0 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25.0 ml | CN(C=O)C | C3H7NO
solvent | water | 250 ml | O | H2O
solvent | water | 3.0 ml | O | H2O
product | C--3-Iminophenylmethyl-4-(3-carbomethoxy-S-methylisothioureido)benzophenone | N=C1CC(=CC=C1)CC1(CC=CC=C1)C(C1=CC=C(C=C1)NC(SC)=NC(=O)OC)=O | C24H25N3O3S
